US09078444B2
To a solution of tert-butyl 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]-2-methyl-benzoate (164 mg) in dichloromethane (1.7 mL) was added trifluoroacetic acid (0.17 mL). The reaction mixture was stirred at room temperature for 6 hours then the solution was concentrated under vacuo. The residue was extracted with water and ethyl acetate. The organic extract was washed with water, dried over sodium sulfate and concentrated to give 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]-2-methyl-benzoic acid (140 mg) as a white foam.

reactant | tert-butyl 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]-2-methyl-benzoate | 164 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NS1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)C)C(F)(F)F | C22H20Cl2F3NO2S
reactant | trifluoroacetic acid | 0.17 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.7 mL | ClCCl | CH2Cl2
product | 4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4H-isothiazol-3-yl]-2-methyl-benzoic acid | 140 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NS1)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C18H12Cl2F3NO2S
